US04898859
2-(4-Nitrophthalimido)acetic acid
To a mixture of concentrated sulfuric acid (350 ml) and fuming nitric acid (d=1.52)(60 ml) was added 2phthalimidoacetic acid (70 g) with stirring and under ice-cooling. The mixture was stirred for 1 hour under ice-cooling and for 2 hours at room temperature, and poured into ice-water (2 l). The resultant precipitate was collected by filtration and recrystallized from a mixture of water (2 l) and ethanol (1 l) to give the title compound (60 g) as light yellow sharp-pointed needles.

reactant | sulfuric acid | 350 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2phthalimidoacetic acid | 70 g | C1(C=2C(C(N1CC(=O)O)=O)=CC=CC2)=O | C10H7NO4
reactant | nitric acid | 60 ml | [N+](=O)(O)[O-] | HNO3
product | 2-(4-Nitrophthalimido)acetic acid | 60 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CC(=O)O)=CC1 | C10H6N2O6
